11
R0100 1 0 10000
R0203 2 3 10000
R0400 4 0 10000
R0500 5 0 10000
R0607 6 7 1000
R0809 8 9 10000
L0200 2 0 1
L0110 1 10 0.032
L0800 8 0 1
C0600 6 0 47E-9
C0411 4 11 47E-9
C0508 5 8 47E-9
V0300 3 0 10 0 10
V1000 10 0 10 0 10
V0700 7 0 10 0 10
V1100 11 0 10 0 10
V0900 9 0 10 0 10
.AC LIN 1000 10 10000
