16
R0100 1 0 1.66666666666667E+3
R0203 2 3 1.66666666666667E+3
L0102 1 2 5.30516925081461E-1
C0400 4 0 9.5493046514663E-8
C0500 5 0 9.5493046514663E-8
C0600 6 0 1.90986093029326E-7
C0700 7 0 9.5493046514663E-8
C0200 2 0 9.5493046514663E-8
C0100 1 0 9.5493046514663E-8
C0800 8 0 1.90986093029326E-7
C0900 9 0 9.5493046514663E-8
G0007 0 7 0 7 6E-4
G0007 0 7 0 8 6E-4
G0010 0 10 0 7 6E-4
G0010 0 10 0 10 6E-4
G0008 0 8 0 10 6E-4
G0009 0 9 0 11 6E-4
G0009 0 9 0 9 6E-4
G0008 0 8 0 9 6E-4
G0012 0 12 0 8 6E-4
G0012 0 12 0 12 6E-4
G0009 0 9 0 12 6E-4
M0404 4 4 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0406 4 6 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1304 13 4 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1313 13 13 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0613 6 13 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0514 5 14 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0505 5 5 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0605 6 5 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1506 15 6 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1515 15 15 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0515 5 15 0 0 NMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0404 4 4 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0406 4 6 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1304 13 4 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1313 13 13 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0613 6 13 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0514 5 14 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0505 5 5 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0605 6 5 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1506 15 6 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M1515 15 15 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
M0515 5 15 16 16 PMOS L=1E-6 W=1E-6 1E-4 1 1E-1 0.3 0.6 0.1E-6
V1400 14 0 1 0 2.5
V1600 16 0 0 0 5
V0300 3 0 1
V1100 11 0 1
.AC DEC 100 1 1000000
