3
R0102 1 2 10000
M0301 3 1 0 1 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0101 1 1 3 1 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
V0200 2 0 10 0 10
.AC LIN 10 100 10000