7
R0100 1 0 100000
L1 2 3 1E-3
L2 1 0 0.1
C0203 2 3 1000E-12
M0405 4 5 0 0 NMOS L=10E-6 W=1000E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0206 2 6 4 0 NMOS L=10E-6 W=1000E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0307 3 7 4 0 NMOS L=10E-6 W=1000E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
V0500 5 0 0 0 1.5
V0600 6 0 1 0 2.5
V0700 7 0 0 0 2.5
V0200 2 0 0 0 5
K12 L1 L2 0.9
.AC DEC 100 1 100E9
